US04575503
t-Butyl nitrite (31 ml) was added with stirring to a solution of 3-amino-1-ethoxycarbonylmethyl-2,3,4,5-tetrahydro-1H[1]-benzazepin-2-one (55 g) in chloroform (1000 ml) and acetic acid (2.8 ml). The reaction mixture was refluxed under nitrogen for 3.5 hours, and then cooled to 0°. While stirring was maintained, m-chloroperbenzoic acid (43.5 g) was added in five portions during 0.5 hour. The reaction mixture was allowed to warm to room temperature and stirred for an additional 1.5 hours. The reaction mixture was washed with saturated aqueous sodium bicarbonate (500 ml), concentrated aqueous ammonia (2×250 ml), and saturated brine (250 ml). The organic solution was dried over sodium sulfate, treated with charcoal, and evaporated under reduced pressure to give an oil which was triturated with ether to give 1-ethoxycarbonylmethyl-2,3,4,5-tetrahydro-1H[1]-benzazepin-2,3-dione, m.p. 112°-114°.

reactant | t-Butyl nitrite | 31 ml | N(=O)OC(C)(C)C | C4H9NO2
reactant | 3-amino-1-ethoxycarbonylmethyl-2,3,4,5-tetrahydro-1H[1]-benzazepin-2-one | 55 g | NC1C(N(C2=C(CC1)C=CC=C2)CC(=O)OCC)=O | C14H18N2O3
reactant | m-chloroperbenzoic acid | 43.5 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 1000 ml | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 2.8 ml | C(C)(=O)O | C2H4O2
product | 1-ethoxycarbonylmethyl-2,3,4,5-tetrahydro-1H[1]-benzazepin-2,3-dione | C(C)OC(=O)CN1C(C(CCC2=C1C=CC=C2)=O)=O | C14H15NO4
